* C:\Users\Martina\Desktop\InformesTC\TP6\EJ1\SIMULACIONES\WIEN.asc
XTL082 N001 N004 +VCC -VCC N003 opamp2
C1 N002 N001 1n
C2 N001 0 1n
C3 N005 0 1µ
R1 N004 P001 51k
R2 N003 N004 20k
R3 N005 0 1Meg
R4 N001 0 2053
D1 N003 N005 D
D2 NC_01 NC_02 1N4148
J1 P001 N005 0 MPF102
R5 N003 N002 2053
V1 +VCC 0 15
V2 0 -VCC 15
.model D D
.lib C:\Users\Martina\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\Users\Martina\Documents\LTspiceXVII\lib\cmp\standard.jft
.inc "TL082.301"
.inc "MPF102.303"
.inc "1N4148.303"
.tran 0 0.1 0 0.01
.backanno
.end
