* C:\Users\Martina\Desktop\InformesTC\TP6\EJ1\SIMULACIONES\WIEN.asc
XTL082 N001 N004 +VCC -VCC N003 TL082
C1 N002 N001 1n
C2 N001 0 1n
C3 N006 0 1µ
R1 N004 P001 95K
R2 N003 N004 200K
R3 N006 0 1Meg
R4 N001 0 1K84
D1 N005 N006 1N750
D2 N005 N003 1N4148
J1 P001 N006 0 MPF102
R5 N003 N002 1K84
V1 +VCC 0 15
V2 0 -VCC 15
.model D D
.lib C:\Users\Martina\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\Users\Martina\Documents\LTspiceXVII\lib\cmp\standard.jft
.inc C:\Users\Martina\Desktop\InformesTC\TP6\EJ1\SIMULACIONES\TL082.301
.tran 0 0.025 0 0.01 uic
.inc "1n4148.sub"
.inc C:\Users\Martina\Documents\LTspiceXVII\lib\sub\MPF102.sub
.ic v(n001)=2
.backanno
.end
